US05709911
First, 39.4 g of 4-(2,3-difluorophenyl)-3-cyclohexenone ethylene ketal, 150 ml of ethyl acetate, and 1.0 g of 10% palladium catalyst(Pd-C) were placed in a 500 ml autoclave. The mixture was stirred at room temperature for 43 hours under a hydrogen pressure of 10 kg/cm2. A catalyst was filtered away and a filtrate was concentrated. Thereafter, 225 ml of 1,4-dioxane, 675 ml of water, and 1 g of p-toluenesulfonic acid monohydrate were added to the residue. The mixture was stirred under reflux for 2 hours. The reaction mixture was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene/hexane=19:1) and distilled under reduced pressure to obtain 17.5 g of 4-(2,3-difluorophenyl)cyclohexanone (Y: 72%). The compound thus obtained had a purity of 98.9% by GC and a b.p. of 125° C. to 128° C./0.6 mmHg.

reactant | 4-(2,3-difluorophenyl)-3-cyclohexenone ethylene ketal | 39.4 g | C1COC2(CC=C(CC2)C2=C(C(=CC=C2)F)F)O1 | C14H14F2O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2,3-difluorophenyl)cyclohexanone | 17.5 g, 72% | FC1=C(C=CC=C1F)C1CCC(CC1)=O | C12H12F2O
